US04265898
4.4 g of 1-(2-methylbenzoylamino)-2-mercapto-4-phenylimidazole (obtained by hydrazinolysis of 2-benzylmercapto-6-phenyl-imidazo[2,1-b]-1,3,4-thiadiazole and subsequent acylation of the 1-amino-2-mercapto-4-phenyl-imidazole with 2-methylbenzoyl chloride), melting point 268°-270° C., were heated to the boil in 30 ml of POCl3 for 20 minutes. The mixture is cooled and mixed with ice and the product is filtered off and then recrystallised from alcohol. 2.6 g, corresponding to 67% of theory, of colourless crystals of melting point 159°-160° C. are obtained.

reactant | 2-benzylmercapto-6-phenyl-imidazo[2,1-b]-1,3,4-thiadiazole | C(C1=CC=CC=C1)SC1=NN2C(S1)=NC(=C2)C2=CC=CC=C2 | C17H13N3S2
reactant | 1-amino-2-mercapto-4-phenyl-imidazole | NN1C(=NC(=C1)C1=CC=CC=C1)S | C9H9N3S
reactant | 2-methylbenzoyl chloride | CC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO
product | 1-(2-methylbenzoylamino)-2-mercapto-4-phenylimidazole | 4.4 g | CC1=C(C(=O)NN2C(=NC(=C2)C2=CC=CC=C2)S)C=CC=C1 | C17H15N3OS
